datasets/10k_Mayr_OG.csv
SMILES Labelled
C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.FC(F)(F)[C:63]1=[CH:64][C:73](C(F)(F)F)=[CH:72][C:61]([S-:10])=[CH:62]1>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([S:10][C:61]2=[CH:62][C:63](C(F)(F)F)=[CH:64][C:73](C(F)(F)F)=[CH:72]2)([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC1(C)C[C:71](=[O:72])[C-:10]([I+:61]C2=CC=CC=C2)[C:91](=[O:92])C1.C[C:20]1=[CH:21][C:22](=[O:23])CC1>>CC1(C)C[C:71](=[O:72])[C:10]([C:20]2(C)CC[C:22]([O-:23])=[CH:21]2)([I+:61]C2=CC=CC=C2)[C:91](=[O:92])C1 10=20;20,21=21,22;22,23=23"
"C1C[C:11]1=[CH2:10].C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:23]1[CH:22]=[CH:21][CH:20]([CH2:10][C+:11]1CC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:11]2=[N:10]CC[NH:12]2)C=C1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>Cl[B-:33](Cl)(Cl)[O:21][CH:20]([N:10]1CC[NH+:12]=[C:11]1C1=CC=CC=C1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCCC1)=[O:62]>>CC[O:72][C:61]([C:10]1([C:20]2([C:41]3=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]3)CC[CH:32]=[CH:31]2)CCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12"
"CC[O:72][C:61]([C-:10]([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62].CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1>>CC[O:72][C:61]([C:10]([CH:20]1[N-:21][C:32](OC)=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)([C:81](=[O:82])[O:92]CC)[C:101](C1=CC=CC=C1)=[O:102])=[O:62] 10=20;20,21=21"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32].C[NH:61][NH2:10]>>CC[O:33][C:31]([CH:20]([NH2+:10][NH:61]C)[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.C[C:10]1=[C:11]([O:12][Si:63](C)(C)C)[O:72]CC1>>C[C:10]1([CH:20]([C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)CC[O:72][C:11]1=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"FC(F)(F)[S:71](/[CH:10]=[C:11]1\[CH:12]=[CH:13][C:14](=[C:15]=[N-:16])[CH:63]=[CH:62]1)(=[O:72])=[O:82].F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>FC(F)(F)[S:71]([CH:10]([C:11]1=[CH:12][CH:13]=[C:14]([C:15]#[N:16])[CH:63]=[CH:62]1)[C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]1)(=[O:72])=[O:82] 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"CC1=CC(C)=C([N:62]2[P:11]([H:10])[N:72](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:63]2)C(C)=C1.O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC1=CC(C)=C([N:62]2[P+:11][N:72](C3=C(C)C=C(C)C=C3C)[CH:64]=[CH:63]2)C(C)=C1.O=C([O-])C1CC2=C(C=CC=C2)[N:23]1[CH:22]=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"C[N+:21](C)=[CH:20]Cl.C[S+:61](C)[CH-:10][C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1>>C[N:21](C)[CH:20](Cl)[CH:10]([S+:61](C)C)[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:83]=[CH:82]1 10=20;20,21=21"
FC(F)(F)[C:84]1=[CH:83][CH:82]=[C:81]([CH-:10][S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[CH:92]=[CH:93]1.F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>FC(F)(F)[C:84]1=[CH:83][CH:82]=[C:81]([CH:10]([CH:20]([C:31]2=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[CH:92]=[CH:93]1 10=20
"C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.CCC[C:11]1([H:10])CC[CH:13]=[CH:12]1>>C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.CCC[C:11]1=[CH:12][CH+:13]CC1 10,11=10,20;12,13=11,12"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1.CO[C:12]1=[C:13]([B-](F)(F)F)[S:14][CH:10]=[CH:11]1>>CO[C:12]1=[CH:11][CH:10]([CH:20]([C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[S+:14]=[C:13]1[B-](F)(F)F 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
